US07098337B2
b) (R)-6-Chloro-4-methyl-3,4-dihydro-2H-2,4a,5-triaza-fluoren-1-one
A solution of 6.70 g (17.5 mmol) (R)-1-(2-tert-butoxycarbonylamino-1-methyl-ethyl)-6-chloro-1H-pyrrolo[2,3-b]pyridine-2-carboxylic acid ethyl ester in 80 ml dichloromethane was cooled to 0 deg C. and 27 ml (0.35 mol) trifluoroacetic acid were added over 4 min. The cooling bath was removed and after 1 h the volatile components were removed on a rotary evaporator. The residue was dissolved in 40 ml methanol and 9.70 g (70.2 mmol) potassium carbonate was added. After stirring for 2.5 h the reaction mixture was diluted with water and ethyl acetate and the phases were separated. The aqueous phase was extracted three times with ethyl acetate. The combined organic layers were washed with brine, dried over magnesium sulfate and filtered. After evaporation, the residue was taken up in 50 ml tert-butyl methyl ether upon which the product started to precipitate. The solid was collected by filtration, washed with 20 ml of tert-butyl methyl ether and dried under high vacuum to afford the product as a pale yellow powder. The concentrated mother liquors were purified by flash chromatography over silica gel (0.032–0.063 mm) with ethyl acetate as eluant to yield another batch of product (86.6% total).

reactant | (R)-1-(2-tert-butoxycarbonylamino-1-methyl-ethyl)-6-chloro-1H-pyrrolo[2,3-b]pyridine-2-carboxylic acid ethyl ester | 17.5 mmol, 6.70 g | C(C)OC(=O)C1=CC=2C(=NC(=CC2)Cl)N1[C@@H](CNC(=O)OC(C)(C)C)C | C18H24ClN3O4
reactant | trifluoroacetic acid | 0.35 mol, 27 ml | FC(C(=O)O)(F)F | C2HF3O2
reactant | potassium carbonate | 70.2 mmol, 9.70 g | C([O-])([O-])=O.[K+].[K+]
solvent | dichloromethane | 80 ml | ClCCl | CH2Cl2
solvent | water | O | H2O
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
product | (R)-6-Chloro-4-methyl-3,4-dihydro-2H-2,4a,5-triaza-fluoren-1-one | ClC=1N=C2N3[C@@H](CNC(C3=CC2=CC1)=O)C | C11H10ClN3O
